US06274745B1
Synthesis of 2-phenyl-2,3-dihydro-4H-pyran-4-one
To a round flask of 5 ml having a magnet stirrer put therein, 19.1 mg (0.01 mmol) of the catalyst (tetrahydrate) obtained in Example 8 and 1 ml of dichloromethane were added for dissolution, then benzaldehyde (10 μl, 0.1 mmol) and 1-methoxy-3-trimethylsilyloxy-1,3-butadiene (purity: 90%, 30.0 μl, 0.150 mmol) were added thereto, and the reaction was carried out at room temperature for 24 hours. After the reaction had been completed, two drops of trifluoroacetic acid was added by a microsyringe, three drops of pyridine was added by a microsyringe, and 1 ml of water was added. Successively, extraction with dichloromethane, drying over anhydrous magnesium sulfate, concentration and purification by preparative silica gel column chromatography (hexane/ethyl acetate=4/1) were carried out to obtain 16.1 mg of the desired compound (R)-2-phenyl-2,3-dihydro-4H-pyran-4-one. As a result of analysis, the yield was 93% and the optical purity was 19% (R).

reactant | dichloromethane | 1 ml | ClCCl | CH2Cl2
reactant | benzaldehyde | 0.1 mmol, 10 μl | C(C1=CC=CC=C1)=O | C7H6O
reactant | 1-methoxy-3-trimethylsilyloxy-1,3-butadiene | 0.150 mmol, 30.0 μl | COC=CC(=C)O[Si](C)(C)C | C8H16O2Si
catalyst | trifluoroacetic acid | two drops | FC(C(=O)O)(F)F | C2HF3O2
catalyst | pyridine | three drops | N1=CC=CC=C1 | C5H5N
solvent | water | 1 ml | O | H2O
product | 2-phenyl-2,3-dihydro-4H-pyran-4-one | 16.1 mg, yield was 93% | C1(=CC=CC=C1)C1OC=CC(C1)=O | C11H10O2
